US07834039B2
To a stirred suspension of trimethylsulfoxonium iodide (234 mg, 1.065 mmol) in DMSO (5.0 mL) under nitrogen, was added, in portions NaH (42.6 mg, 1.065 mmol), with a water bath in place to keep the reaction between 25-30° C. Upon completion of hydrogen evolution, a solution of (Z)-methyl 3-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)acrylate (386 mg, 0.968 mmol) in DMSO (5.00 mL) was added drop-wise, keeping the reaction temperature at or below 35° C. After addition was complete, the reaction was stirred at room temperature for an hour and a half and then warmed to 50° C. for two hours. 50 ml of water was then added to the reaction, and the reaction left to stir at room temperature overnight. The reaction mixture was diluted with saturated aqueous sodium chloride, and the aqueous layer was extracted 3× with 75 mL EtOAc. Organic layers were combined, dried over MgSO4, and concentrated. The crude material was purified by RP-HPLC (A=50 mM ammonium acetate, B=ACN; 30% to 100% B over 30 min at 21.0 mL/min; UV λ=254 nm; Thermo Hyperprep HS C18, 8 μm, 250×21.2 mm column). Fractions containing product were combined, concentrated and lyophilized to give Trans-methyl 2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)cyclopropanecarboxylate (155 mg, 39%) as a white solid. LCMS (Table 1, Method c) Rt=3.27 min, m/z 413.17 (M+H)+. 1H NMR (400 MHz, DMSO) δ ppm 8.08 (d, 2H), 8.06 (d, 1H), 7.99 (dd, 1H), 7.47 (d, 2H), 7.39 (d, 1H), 4.82 (sept, 1H), 3.66 (s, 3H), 2.59 (ddd, 1H), 2.12 (ddd, 1H), 1.58 (ddd, 1H), 1.53 (ddd, 1H), 1.35 (d, 6H).

reactant | trimethylsulfoxonium iodide | 1.065 mmol, 234 mg | [I-].C[S+](=O)(C)C
reactant | NaH | 1.065 mmol, 42.6 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | (Z)-methyl 3-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)acrylate | 0.968 mmol, 386 mg | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)\C=C/C(=O)OC | C21H19ClN2O4
solvent | DMSO | 5.0 mL | CS(=O)C | C2H6OS
solvent | DMSO | 5.00 mL | CS(=O)C | C2H6OS
solvent | sodium chloride | [Cl-].[Na+]
solvent | water | 50 ml | O | H2O
product | Trans-methyl 2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenyl)cyclopropanecarboxylate | 155 mg, 39% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OC | C22H21ClN2O4
